US07625889B2
Step 1: (S)-2-(4-Fluoro-phenyl)-1-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-4-methyl-piperazine:
A mixture of (S)-1-(5-bromo-2-fluoro-benzyl)-2-(4-fluoro-phenyl)-4-methyl-piperazine (0.87 g, 2.28 mmol), bis(pinacolato)diboron (0.61 g, 2.39 mmol), potassium acetate (0.89 g, 9.11 mmol) and PdCl2(dppf).DCM (186 mg, 0.23 mmol) in degassed, anhydrous DMSO was evacuated and then repressurized with nitrogen. This process was repeated several times to minimize the amount of oxygen in the reaction mixture. The mixture was heated at 85° C. for 4 h. The reaction was diluted with DCM and washed with water and brine, dried over MgSO4, filtered and evaporated to give a dark brown syrup. Chromatography on silica gel, eluting with 2% isopropanol/DCM gave 709 mg of the product.

reactant | (S)-1-(5-bromo-2-fluoro-benzyl)-2-(4-fluoro-phenyl)-4-methyl-piperazine | 2.28 mmol, 0.87 g | BrC=1C=CC(=C(CN2[C@H](CN(CC2)C)C2=CC=C(C=C2)F)C1)F | C18H19BrF2N2
reactant | bis(pinacolato)diboron | 2.39 mmol, 0.61 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 9.11 mmol, 0.89 g | C(C)(=O)[O-].[K+]
reactant | DCM | 0.23 mmol, 186 mg | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-2-(4-Fluoro-phenyl)-1-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-4-methyl-piperazine | 709 mg | FC1=CC=C(C=C1)[C@@H]1N(CCN(C1)C)CC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)F | C24H31BF2N2O2
